US05990102
a. 6-Bromo-1-(4-methoxyphenyl)hexane
A solution of 6-bromohexanoyl chloride (50 g, 0.2 mol) in dry dichloromethane (40 ml) was added dropwise over 5 minutes to a suspension of aluminium chloride (31 g, 0.2 mol) in dry dichloromethane (100 ml), keeping the temperature between 20-23° C. The mixture was stirred for 30 minutes at room temperature to give a yellow solution. Anisole (23 g, 0.2 mol) in dry dichloromethane (30 ml) was added and stirred for 20 hours at room temperature. Triethylsilane (59.9 g, 0.515 mol) was added over 10 minutes, maintaining the temperature between 25° C.-35° C. The solution was stirred for 60 minutes at room temperature and poured onto ice/water (200 g). The organic layer was washed with brine and water until the pH of the solution was neutral. Drying (MgSO4) and evaporation under reduced pressure gave a yellow oil which was distilled under reduced pressure at 90-110° C./0.5 mbar. Produce containing fractions were combined and purified by flash chromatography on silica gel using hexane as eluant to give a colourless oil (18.33 g, 33%).

reactant | 6-bromohexanoyl chloride | 0.2 mol, 50 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | aluminium chloride | 0.2 mol, 31 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Anisole | 0.2 mol, 23 g | C1(=CC=CC=C1)OC | C7H8O
reactant | Triethylsilane | 0.515 mol, 59.9 g | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-Bromo-1-(4-methoxyphenyl)hexane | 18.33 g, 33% | BrCCCCCCC1=CC=C(C=C1)OC | C13H19BrO
